US04122199
N(2'-pyrrolidino-ethyl)-α,α-diphenyl-α-chloroacetamide hydrochloride
An acetone solution of 1 mol of diphenyl-α-chloroacetyl chloride is treated at 0° C. with an acetone solution of pyrrolidinoethylamine.

reactant | diphenyl-α-chloroacetyl chloride | 1 mol | C1(=CC=CC=C1)C(C(=O)Cl)(Cl)C1=CC=CC=C1 | C14H10Cl2O
reactant | pyrrolidinoethylamine | N1(CCCC1)CCN | C6H14N2
solvent | acetone | CC(=O)C | C3H6O
product | N(2'-pyrrolidino-ethyl)-α,α-diphenyl-α-chloroacetamide hydrochloride | Cl.N1(CCCC1)CCNC(C(Cl)(C1=CC=CC=C1)C1=CC=CC=C1)=O | InChI=1S/C20H23ClN2O.ClH/c21-20(17-9-3-1-4-10-17,18-11-5-2-6-12-18)19(24)22-13-16-23-14-7-8-15-23;/h1-6,9-12H,7-8,13-16H2,(H,22,24);1H
